US07989462B2
[2-(N-Methyl-acetamido)-quinazolin-4-yl]-(4-dimethylaminophenyl)-methylamine
To a solution of (2-methylamino-quinazolin-4-yl)-(4-dimethylaminophenyl)-methylamine (40 mg, 0.13 mmol) in 4 mL of methylenechloride cooled at 0° C. was added triethylamine (50 uL, 0.36 mmol), few crystals of dimethylaminopyridine and acetic anhydride (50 uL, 0.53 mmol). The reaction mixture was stirred for 1 h at 0° C., warmed to room temperature, and stirred overnight. The reaction mixture was diluted with 25 mL of ethyl acetate and washed with 25 mL of saturated sodium bicarbonate. The organic layer was dried over anhydrous NaSO4, filtered and concentrated. The residue was purified by chromatography (40% ethyl acetate/hexane) to give the title compound (39 mg, 0.11 mmol, 85%). 1H NMR (CDCl3): 7.65-7.69 (m, 1H), 7.52 (ddd, J=8.4, 6.6, 1.8, 1H), 6.93-7.12 (m, 4H), 6.72 (m, 2H), 3.56 (s, 3H), 3.01 (s, 6H), 2.52 (s, 3H).

reactant | (2-methylamino-quinazolin-4-yl)-(4-dimethylaminophenyl)-methylamine | 0.13 mmol, 40 mg | CNC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)N(C)C | C18H21N5
reactant | triethylamine | 0.36 mmol, 50 uL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 0.53 mmol, 50 uL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylenechloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | [2-(N-Methyl-acetamido)-quinazolin-4-yl]-(4-dimethylaminophenyl)-methylamine | 0.11 mmol, 39 mg, 85% | CN(C(C)=O)C1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)N(C)C | C20H23N5O
